US07666878B2
To a solution of [4-chloro-1-(3,4-dichloro-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-yl]-acetic acid methyl ester (40 mg, 0.09 mmol) in CH2Cl2 (1 mL), is added 1M BBr3 in CH2Cl2 (536 μL, 0.54 mmol). The solution is subjected to microwave irradiation in a sealed reaction vessel with stirring at 60° C. over 45 minutes. The reaction mixture is evaporated to dryness in vacuo. Water is added and the suspension sonicated then filtered, washed with water and dried in vacuo, furnishing [4-chloro-1-(3,4-dichloro-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-yl]-acetic acid; MH+=433.

reactant | [4-chloro-1-(3,4-dichloro-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-yl]-acetic acid methyl ester | 0.09 mmol, 40 mg | COC(CC1=C(N(C2=NC=CC(=C21)Cl)S(=O)(=O)C2=CC(=C(C=C2)Cl)Cl)C)=O | C17H13Cl3N2O4S
reactant | BBr3 | 1M | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.54 mmol, 536 μL | C(Cl)Cl | CH2Cl2
product | [4-chloro-1-(3,4-dichloro-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-yl]-acetic acid | ClC1=C2C(=NC=C1)N(C(=C2CC(=O)O)C)S(=O)(=O)C2=CC(=C(C=C2)Cl)Cl | C16H11Cl3N2O4S
